.include ../../yosys/prim_cells_ngspice.mod
.include ./prsgen8_ngspice.mod
.include ./lpf.mod

* A/D and D/A Bridge Models
.model adc_buff adc_bridge(in_low = 0.8 in_high=2)
.model dac_buff dac_bridge(out_high = 5)

* Analog Stimulus 1 MHz clock with one cycle reset pulse
Vclk clk 0 PULSE(0 4.9 500ns 50ns 50ns 438.28ns 976.56ns)
Vrst rst 0 PULSE(0 4.9 0 50ns 50ns 2us)

* Digital Stimulus with 8-bit Sine Input
.model sine_stimulus d_source(input_file = "sine.ssv")
Asine [s7 s6 s5 s4 s3 s2 s1 s0] sine_stimulus

* PRS Generator with LPF and D/A Bridge
Xprs dclk drst s0 s1 s2 s3 s4 s5 s6 s7 dprsout prsgen8
Aad [clk rst] [dclk drst] adc_buff
Ada [dprsout] [prsout] dac_buff

Xlpf1 prsout out lpf fc=1e3 zeta=1.05 lval=10mH

.control
tran 10ns 50ms uic
plot v(clk)+10 v(rst)+15 v(prsout)+5 v(out)

linearize v(out)
fft v(out)
plot mag(out) ylog
.endc
.end
